US08217050B2
Cyclopentyl 4-{6-amino-8-[(6-bromo-1,3-benzodioxol-5-yl)thio]-9H-purin-9-yl}-L-phenylalaninate
A solution of cyclopentyl 4-{6-amino-8-[(6-bromo-1,3-benzodioxol-5-yl)thio]-9H-purin-9-yl}-N-(tert-butoxycarbonyl)-L-phenylalaninate (44 mg, 0.063 mmol) in TFA (250 μl, 3.24 mmol) and DCM (1 ml) was stirred at room temp for 2 h. Chromatography (silica gel, 2-5% MeOH/DCM) afforded the title compound (20 mg) as a pale yellow solid. m/z 597 (M+H)+. 1H NMR (400 MHz, CHCl3-d) d: 8.28 (1H, s), 7.32-7.40 (4H, m), 7.03 (1H, s), 6.93 (1H, s), 6.00 (1H, s), 5.53 (2H, s), 5.20 (1H, m), 3.71 (1H, dd, J=7.8, 5.4 Hz), 3.13 (1H, dd, J=13.7, 5.4 Hz), 2.90 (1H, dd, J=13.7, 7.8 Hz), 1.86 (2H, m), 1.75-1.55 (10H, br m).

reactant | cyclopentyl 4-{6-amino-8-[(6-bromo-1,3-benzodioxol-5-yl)thio]-9H-purin-9-yl}-N-(tert-butoxycarbonyl)-L-phenylalaninate | 0.063 mmol, 44 mg | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)OC2CCCC2)C=C1)SC1=CC2=C(OCO2)C=C1Br | C31H33BrN6O6S
reactant | TFA | 3.24 mmol, 250 μl | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | Cyclopentyl 4-{6-amino-8-[(6-bromo-1,3-benzodioxol-5-yl)thio]-9H-purin-9-yl}-L-phenylalaninate | 20 mg | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C[C@H](N)C(=O)OC2CCCC2)C=C1)SC1=CC2=C(OCO2)C=C1Br | C26H25BrN6O4S
